US06677368B2
To a solution of 4-(3-trifluoromethyl-phenyl)-1,3-dihydro-indol-2-one (69.3 mg, 0.25 mmol) and 4-[(cis)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrole-2-carbaldehyde (64.8 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 3-{4-((cis)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrol-2-ylmethylene}-4-(3-trifluoromethyl-phenyl)-1,3-dihydro-indol-2-one as a yellow solid (34.3 mg, 27%).

reactant | 4-(3-trifluoromethyl-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 69.3 mg | FC(C=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O)(F)F | C15H10F3NO
reactant | 4-[(cis)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 64.8 mg | C[C@@H]1CN(C[C@@H](N1)C)C(=O)C=1C(=C(NC1)C=O)C | C13H19N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-{4-((cis)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrol-2-ylmethylene}-4-(3-trifluoromethyl-phenyl)-1,3-dihydro-indol-2-one | 34.3 mg, 27% | C[C@@H]1CN(C[C@@H](N1)C)C(=O)C=1C(=C(NC1)C=C1C(NC2=CC=CC(=C12)C1=CC(=CC=C1)C(F)(F)F)=O)C | C28H27F3N4O2
